US03994902
Following a procedure similar to that described in Example 12, Procedure 3, but substituting for 2-(methylsulfinyl)-2'-(4-methoxyanilino)acetophenone an equivalent amount of 2-(methylsulfinyl)-2'-(4-benzyloxyanilino)-5'-methoxyacetophenone there can be obtained 1-(4-benzyloxyphenyl)-2-phenyl-6-methoxy-4(1H)-quinolone.

reactant | 2-(methylsulfinyl)-2'-(4-methoxyanilino)acetophenone | CS(=O)CC(=O)C1=C(C=CC=C1)NC1=CC=C(C=C1)OC | C16H17NO3S
reactant | 2-(methylsulfinyl)-2'-(4-benzyloxyanilino)-5'-methoxyacetophenone | CS(=O)CC(=O)C1=C(C=CC(=C1)OC)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H23NO4S
product | 1-(4-benzyloxyphenyl)-2-phenyl-6-methoxy-4(1H)-quinolone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC(C2=CC(=CC=C12)OC)=O)C1=CC=CC=C1 | C29H23NO3
